US04829065
32 Grams (0.59 mol) of potassium borohydride were added portionwise to a solution of 30 g (0.15 mol) of 2-phenyl-4-acetyl-5-methylimidazole in 1500 ml of MeOH. After stirring overnight, a solid material was removed by filtration, then the solvent was evaporated under reduced pressure to give 27 g of 2-phenyl-4-(1-hydroxyethyl)-5-methylimidazole. The crude compound thus isolated was used without further purification.

reactant | potassium borohydride | 0.59 mol | [BH4-].[K+]
reactant | 2-phenyl-4-acetyl-5-methylimidazole | 0.15 mol, 30 g | C1(=CC=CC=C1)C=1NC(=C(N1)C(C)=O)C | C12H12N2O
solvent | MeOH | 1500 ml | CO | CH4O
product | 2-phenyl-4-(1-hydroxyethyl)-5-methylimidazole | 27 g | C1(=CC=CC=C1)C=1NC(=C(N1)C(C)O)C | C12H14N2O
